US04537889
2-(2-methoxy-4-methylsulfonylphenyl)imidazo[1,2-a]pyrazine
Following the general procedure of Example 5(B), 3.88 g. of 2-amino-3-chloropyrazine and 9.21 g. of α-bromo-2-methoxy-4-methylsulfonylacetophenone were reacted to give 4.8 g. of the intermediate 8-chloro-2-(2-methoxy-4-methylsulfonylphenyl)imidazo[1,2-a]pyrazine hydrobromide. The hydrobromide salt (3.6 g.) was hydrogenated in 195 ml. of dimethylformamide and 2.7 g. of triethylamine in the presence of 1 g. of 5% palladium-on-barium sulfate. After filtration, the solution was poured into 700 ml. of ethyl acetate, washed four times with a saturated sodium chloride solution and the solvent concentrated in vacuo. At a reduced volume crystallization occurred and 540 mg. of the title product were recovered by filtration.

reactant | 2-amino-3-chloropyrazine | NC1=NC=CN=C1Cl | C4H4ClN3
reactant | 8-chloro-2-(2-methoxy-4-methylsulfonylphenyl)imidazo[1,2-a]pyrazine hydrobromide | Br.ClC=1C=2N(C=CN1)C=C(N2)C2=C(C=C(C=C2)S(=O)(=O)C)OC
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-(2-methoxy-4-methylsulfonylphenyl)imidazo[1,2-a]pyrazine | COC1=C(C=CC(=C1)S(=O)(=O)C)C=1N=C2N(C=CN=C2)C1 | C14H13N3O3S
